US05731322
(±)-trans-2-Diethylaminocarbonyl-3,6-dimethyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline
3 g (9.3 mmol) of (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride, 2.92 g (11.2 mmol) of N,N-diethyl-2-phenylhydrazono-3-oxobutyramide, 0.92 g (11.2 mmol) of CH3COONa, 2.8 g (42.8 mmol) of zinc dust and 9.3 ml of glacial acetic acid were treated as described in example 1. The residue was purified by flash chromatography (AcOEt/MeOH/conc. NH4OH 90:10:1; Rf=0.27) yielding 0.56 g of the title compound. M.p. (.HCl)=250° C. dec. C25H35N3O2I.R. (KBr) (hydrochloride): 3410, 3200, 2915, 2510, 1605, 1580 cm-1.

reactant | (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride | 9.3 mmol, 3 g | Cl.C(C)N1C[C@@H]2CCC(C[C@]2(CC1)C1=CC(=CC=C1)OC)=O
reactant | N,N-diethyl-2-phenylhydrazono-3-oxobutyramide | 11.2 mmol, 2.92 g | C(C)N(C(C(C(C)=O)=NNC1=CC=CC=C1)=O)CC | C14H19N3O2
reactant | CH3COONa | 11.2 mmol, 0.92 g | CC(=O)O[Na]
catalyst | zinc | 42.8 mmol, 2.8 g | [Zn] | Zn
solvent | acetic acid | 9.3 ml | C(C)(=O)O | C2H4O2
product | (±)-trans-2-Diethylaminocarbonyl-3,6-dimethyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline | 0.56 g | C(C)N(C(=O)C1=C(C2=C(C[C@@]3(CCN(C[C@H]3C2)C)C2=CC(=CC=C2)OC)N1)C)CC | C25H35N3O2
